data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1391,1530,[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2.[CH:13]#[N+:14][C-:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[N:14]=[CH:13]2,water,298.15,26.14945838601084,-30.48213837547108
1100,1198,[Br:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2.[CH3:9][C:10](=[O:11])[CH:12]=[NH+:13][C-:14]([C:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[Br:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[CH:12]([C:10]([CH3:9])=[O:11])[NH:13][C:14]3([C:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,13.371698972973425,-39.34237139345071
2324,2582,[CH3:21][C:22](=[O:23])[C:24]#[N+:25][C-:26]([C:27]([CH3:28])=[O:29])[C:30]([CH3:31])=[O:32].[F:1][C:2]([F:3])([F:4])[C:5](=[C:6]([C:7]([F:8])([F:9])[F:10])[C:11]([F:12])([F:13])[F:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[F:1][C:2]([F:3])([F:4])[C:5]1([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[C:6]([C:7]([F:8])([F:9])[F:10])([C:11]([F:12])([F:13])[F:14])[C:24]([C:22]([CH3:21])=[O:23])=[N:25][C:26]1([C:27]([CH3:28])=[O:29])[C:30]([CH3:31])=[O:32],water,298.15,34.455254965289704,-0.7147110031717557
127,143,[CH3:10][c:11]1[o:12][c:13](=[O:14])[n-:15][n+:16]1[CH3:17].[CH3:1][C:2]1=[C:3]([CH3:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][C:2]12[C:3]([CH3:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[N:15]1[C:13](=[O:14])[O:12][C:11]2([CH3:10])[N:16]1[CH3:17],water,298.15,34.78849545220141,7.782933425126211
2937,3275,[CH2:5]=[NH+:6][C-:7]([CH3:8])[C:9]([CH3:10])=[O:11].[CH3:1]/[CH:2]=[CH:3]\[CH3:4]>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:7]([CH3:8])([C:9]([CH3:10])=[O:11])[NH:6][CH2:5]1,water,298.15,22.84679852448283,-19.041934643553304
364,395,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][C:7](=[O:8])[O:9][CH3:10].[N:11]#[C:12][N-:13][N+:14]#[C:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH3:1][O:2][C:3](=[O:4])[c:5]1[c:6]([C:7](=[O:8])[O:9][CH3:10])[n:13]([C:12]#[N:11])[n:14][c:15]1-[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,17.23519737754044,-69.16788766325685
3326,3774,[CH3:10][C:11](=[O:12])[N:13]=[NH+:14][N-:15][C:16]#[N:17].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][N:13]([C:11]([CH3:10])=[O:12])[NH:14][N:15]1[C:16]#[N:17],water,298.15,17.98558882086208,-17.579346208635087
1143,1242,[CH3:16][C:17](=[O:18])[CH:19]=[NH+:20][CH-:21][C:22]([CH3:23])=[O:24].[CH3:1][NH:2][C:3](=[O:4])[C:5]([F:6])=[C:7]([C:8](=[O:9])[NH:10][CH3:11])[C:12](=[O:13])[NH:14][CH3:15]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([F:6])[C:7]([C:8](=[O:9])[NH:10][CH3:11])([C:12](=[O:13])[NH:14][CH3:15])[CH:21]([C:22]([CH3:23])=[O:24])[NH:20][CH:19]1[C:17]([CH3:16])=[O:18],water,298.15,21.59497736501989,-12.051459747523255
4649,5302,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[nH+:15][c:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[o:23][c:24]1=[O:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]2([C:12]([NH:11][CH3:10])=[O:13])[NH:15][C:16]1([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[O:23][C:24]2=[O:25],water,298.15,29.67902523591793,7.549362179757848
19,22,[CH3:1][O:2][C:3]([O:4][CH3:5])=[C:6]([F:7])[F:8].[CH3:9][C-:10]([CH3:11])[N+:12]#[N:13]>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]([F:7])([F:8])[C:10]([CH3:9])([CH3:11])[N:12]=[N:13]1,water,298.15,24.07477281558775,-31.29354236088552
3895,4455,[CH3:9][C:10]([CH3:11])=[O+:12][C-:13]([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:14]#[N:15])([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[O:12][C:10]1([CH3:9])[CH3:11],water,298.15,17.062094246567646,-42.4637952293694
75,86,[CH3:11][C:12](=[O:13])[C:14]#[N+:15][O-:16].[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][O:2][C:3]12[C:4]([CH3:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:14]([C:12]([CH3:11])=[O:13])=[N:15][O:16]2,water,298.15,20.23764580562148,-38.62921688153378
4873,5556,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[O+:15][N-:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[C:23](=[O:24])[O:25][CH3:26].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][N:16]([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[O:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:23](=[O:24])[O:25][CH3:26],water,298.15,15.035475468790866,-42.8909553262429
